US06982348B2
1) 2-methyl-5-phenoxypyridine
To a solution of 6-methylpyridin-3-ol (25.2 g, 231 mmol) in N,N-dimethylformamide (100 ml) was added potassium tert-butoxide (25.9 g, 231 mmol), and the mixture was stirred at room temperature for 1 hr. The reaction solution was evaporated under reduced pressure and diluted with N,N-dimethylformamide (100 ml). A copper powder (3.7 g, 58 mmol) and bromobenzene (36.3 g, 231 mmol) were added, and the mixture was stirred at 120° C. overnight. Methanol was added to the reaction solution and insoluble material was filtered off using celite. The filtrate was diluted with water (500 ml) and the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the objective substance (31 g, 72%).

reactant | 6-methylpyridin-3-ol | 231 mmol, 25.2 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | potassium tert-butoxide | 231 mmol, 25.9 g | CC(C)([O-])C.[K+]
reactant | bromobenzene | 231 mmol, 36.3 g | BrC1=CC=CC=C1 | C6H5Br
reactant | Methanol | CO | CH4O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | copper | 58 mmol, 3.7 g | [Cu] | Cu
product | 2-methyl-5-phenoxypyridine | CC1=NC=C(C=C1)OC1=CC=CC=C1 | C12H11NO
